US04330559
2-Amino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid
To a solution of the copper salt of 2-difluoromethyl-2,5-diaminopentanoic acid in water, prepared by reacting 2-difluoromethyl-2,5-diaminopentanoic acid monohydrate hydrochloride (2.4 g) with copper carbonate (6 g), is added slowly at 0° C. with stirring 1.1 g of benzylchloroformate. The reaction mixture is stirred for an additional 3 hours at room temperature after which hydrogen sulfide is passed through the solution until it becomes colorless. The precipitate is filtered off, and the pH of the aqueous solution is adjusted to 6 by the addition of hydrochloric acid. Upon concentration 2-amino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid is obtained.

reactant | 2-difluoromethyl-2,5-diaminopentanoic acid | FC(C(C(=O)O)(CCCN)N)F | C6H12F2N2O2
reactant | 2-difluoromethyl-2,5-diaminopentanoic acid monohydrate hydrochloride | 2.4 g | Cl.O.FC(C(C(=O)O)(CCCN)N)F
reactant | benzylchloroformate | 1.1 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | hydrogen sulfide | S | H2S
solvent | water | O | H2O
catalyst | copper | [Cu] | Cu
catalyst | copper carbonate | 6 g | C([O-])([O-])=O.[Cu+2]
product | 2-Amino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid | NC(C(=O)O)(CCCNC(=O)OCC1=CC=CC=C1)C(F)F | C14H18F2N2O4
